US04159984
To a solution of 10 g of benzyl α-(3ξ-carboxy-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate in 120 ml of benzene are added 0.25 ml of N,N-dimethylformamide and 2.2 ml of oxalyl chloride, and the mixture stirred at room temperature for 45 minutes. The resulting solution of benzyl α-(3ξ-chlorocarbonyl-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate is concentrated to about 1/2 volume, then dropwise added to a solution of diazomethane in 250 ml of ether (which has been prepared from 13 g of nitrosomethyl-urea) under ice-cooling, and stirred for 20 minutes. The resulting solution of benzyl α-(3ξ-diazoacetyl-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate is mixed with 10 ml of ether containing 16% hydrogen chloride, and after 85 minutes, the mixture is concentrated under reduced pressure. The residue [benzyl α-(3ξ-chloroacetyl-2-phenylacetyl-7-oxo-4 -oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate (IR: γmaxCHCl3 1786, 1724, 1674 cm-1)], is dissolved in 100 ml of acetic acid and mixed with 10 g of zinc powder which has preliminarily been washed with hydrochloric acid, water, ethanol and ether, and stirred at room temperature for 1.5 hours. The reaction mixture is filtrated, and the filtrate poured into 90 ml of ice water and extracted with methylene chloride. The extract is washed with water, an aqueous solution of sodium hydrogencarbonate and then water, dried on sodium sulfate and concentrated under reduced pressure. The residue (9.68 g) is purified by chromatography on 200 g of silica gel containing 10% water and eluted with a mixture of benzene and ethyl acetate (7:1) to yield 7.208 g of benzyl α-(3ξ-acetyl-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate in 79.7% yield.

reactant | benzyl α-(3ξ-carboxy-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 10 g | C(=O)(O)C1NC2(C(N(C2O1)C(C(=O)OCC1=CC=CC=C1)=C(C)C)=O)C(CC1=CC=CC=C1)=O | C25H24N2O7
reactant | N,N-dimethylformamide | 0.25 ml | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 2.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | benzene | 120 ml | C1=CC=CC=C1 | C6H6
product | benzyl α-(3ξ-acetyl-2-phenylacetyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 7.208 g, 79.7% yield | C(C)(=O)C1NC2(C(N(C2O1)C(C(=O)OCC1=CC=CC=C1)=C(C)C)=O)C(CC1=CC=CC=C1)=O | C26H26N2O6
